US05665777
To a solution in 2:1 dioxane/water (36 mL) of 4-(3-phenylphenoxy)butanoic acid ethyl ester (3.42 g, 12 mmol), prepared as in step 1, was added lithium hydroxide hydrate (1.42 g, 33.8 mmol) and the reaction mixture was stirred overnight at ambient temperature. The reaction mixture was concentrated in vacuo and the resulting solid was mostly dissolved in aqueous Na2CO3. The aqueous solution was decanted from a small amount of residual solid and extracted with ethyl ether. The ether extract was discarded and the aqueous phase was taken to pH 2 with HCl and extracted with ethyl acetate. The ethyl acetate extract was dried over MgSO4, filtered, and concentrated in vacuo to give 4-(3-phenylphenoxy)butanoic acid (3.17 g).

reactant | 4-(3-phenylphenoxy)butanoic acid ethyl ester | 12 mmol, 3.42 g | C(C)OC(CCCOC1=CC(=CC=C1)C1=CC=CC=C1)=O | C18H20O3
reactant | lithium hydroxide hydrate | 33.8 mmol, 1.42 g | O.[OH-].[Li+]
solvent | dioxane water | 36 mL | O1CCOCC1.O
product | 4-(3-phenylphenoxy)butanoic acid | 3.17 g | C1(=CC=CC=C1)C=1C=C(OCCCC(=O)O)C=CC1 | C16H16O3
